US07592453B2
N-((1R,2S)-2-{[(3aR,4R,9bR)-4-(Methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)-1H-1,2,3-benzotriazole-5-carboxamide
To a solution (5 ml) of (1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine hydrochloride (200 mg, 0.480 mmol) in THF were added triethylamine (0.199 ml, 1.44 mmol), 1H-1,2,3-benzotriazole-5-carboxylic acid (78.3 mg, 0.480 mmol) and DEPC (0.079 ml, 0.528 mmol) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous MgSO4, and concentrated under reduced pressure. The obtained residue was subjected to column chromatography using silica gel and eluted with hexane:ethyl acetate (1:1-1:9) to give the title compound (187 mg, 80%) as an amorphous form.

reactant | (1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine hydrochloride | 0.480 mmol, 5 ml, 200 mg | Cl.COC[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)N
reactant | triethylamine | 1.44 mmol, 0.199 ml | C(C)N(CC)CC | C6H15N
reactant | 1H-1,2,3-benzotriazole-5-carboxylic acid | 0.480 mmol, 78.3 mg | N1N=NC2=C1C=CC(=C2)C(=O)O | C7H5N3O2
reactant | DEPC | 0.528 mmol, 0.079 ml | CCOC(=O)OC(=O)OCC | C6H10O5
solvent | THF | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | N-((1R,2S)-2-{[(3aR,4R,9bR)-4-(Methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)-1H-1,2,3-benzotriazole-5-carboxamide | 187 mg, 80% | COC[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(=O)C2=CC1=C(NN=N1)C=C2 | C27H32N6O3
